US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-2-(4-amino-3,5-dichlorophenylamino)-ethylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl chloride and 2-(4-amino-3,5-dichlorophenylamino)-ethylamine analogously to Example 6.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl chloride | COC1=CC2=C(C(C(N(CC2)CCCCl)=O)=O)C=C1OC | C15H18ClNO4
reactant | 2-(4-amino-3,5-dichlorophenylamino)-ethylamine | NC1=C(C=C(C=C1Cl)NCCN)Cl | C8H11Cl2N3
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-2-(4-amino-3,5-dichlorophenylamino)-ethylamine | COC1=CC2=C(C(C(N(CC2)CCCNCCNC2=CC(=C(C(=C2)Cl)N)Cl)=O)=O)C=C1OC | C23H28Cl2N4O4
